US08084489B2
This compound is made by the general method as exemplified in Preparation 107 using 4′-tert-butyl-2,6-dimethyl-biphenyl-4-thiol and (±)-5-(1-hydroxy-ethyl)-thiophene-2-carboxylic acid ethyl ester in Step A and 3-amino-propionic acid methyl ester hydrochloride salt in Step C as the starting materials to provide (±)-3-({5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.279 g) as a white foam. MS (ES): 508.3 [M−H]−.

reactant | 4′-tert-butyl-2,6-dimethyl-biphenyl-4-thiol | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)S)C | C18H22S
reactant | (±)-5-(1-hydroxy-ethyl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=CC1)C(C)O | C9H12O3S
reactant | 3-amino-propionic acid methyl ester hydrochloride salt | Cl.COC(CCN)=O
product | (±)-3-({5-[1-(4′-tert-butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.279 g | COC(CCNC(=O)C=1SC(=CC1)C(C)SC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)(C)C)C)=O | C29H35NO3S2
